### PR TITLE
feat: bounded properties of Higgs potential

### PR DESCRIPTION
**Pull request by jstoobysmith**

### CODE REVIEW

File: HepLean/StandardModel/HiggsBoson/Potential.lean [hunk 1]
```diff
@@ -62,6 +62,147 @@ lemma complete_square (μ2 𝓵 : ℝ) (h : 𝓵 ≠ 0) (φ : HiggsField) (x : S
...
+
+lemma discrim_ge_zero_of_neg_𝓵 (μ2 : ℝ) {𝓵 : ℝ} (h : 𝓵 < 0) (c : ℝ) :
+    0 ≤ discrim 𝓵 (- μ2) (- c) ↔ c ≤ - μ2 ^ 2 / (4 * 𝓵) := by
+  rw [discrim]
+  simp only [even_two, Even.neg_pow, mul_neg, sub_neg_eq_add]
+  rw [← neg_le_iff_add_nonneg', show 4 * 𝓵 * c = (- 4 * 𝓵) * (- c) by ring,
+    ← (div_le_iff₀' (by linarith : 0 < - 4 * 𝓵)), le_neg]
+  ring_nf
+
+example (a b c : ℝ ) (hc : c < 0) :  a ≤ b / c ↔ b ≤ c * a := by
```
Comment (jstoobysmith) [inline HepLean/StandardModel/HiggsBoson/Potential.lean]: TODO: Remove this example
